* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\555-astable-mode.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N002 N003 power NC_01 N002 N001 power NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
R1 power N001 10k
R2 N001 N002 10k
C1 N002 0 1µ
V1 power 0 5
.tran 100m
* 555 Timer
* Astable mode: oscillates between high and low\n \nOscillating frequency = f = 1.44/((R1+2*R2)*C1)\nOscillating period = T = 1/f = 0.694*(R1+2*R2)*C1 = 20.82 ms\nOn time = T1 = 0.694*(R1+R2)*C1 = 13.88 ms\nOff time = T0 = 0.694*R2*C1 = 6.94 ms\nDuty cycle = T1/(T1+T0) = T1/T = (R1+R2)/(R1+2*R2) = 0.67\n \nNote:\n1. Frequency depends both on capacitor and resistor values.\n2. On time depends both on R1 and R2 (and C of course) because capacitor gets charged through Vcc.\n3. Off time depends only on R2 (and C) since the capacitor gets discharged through the discharge pin (shorted to ground).\n4. Duty cycle depends ONLY on resistors value and NOT on the capacitor.
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
