* D:\home\brosnan\books\circuits\Circuits-LTSpice\Trigger circuits\555-bistable-mode.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 output N002 NC_01 0 NC_02 power NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
R1 power N001 10k
V1 power 0 5
S1 0 N001 P1 0 SW1
V2 P1 0 PULSE(0 10 1.1 1n 1n 0.1 0.5 2)
R2 power N002 10k
S2 0 N002 P2 0 SW2
V3 P2 0 PULSE(0 10 0.1 1n 1n 0.1 0.5 2)
R3 output 0 10k
.tran 2
* 555 Timer
.model SW1 SW(Ron=1m Roff=1Meg Vt=5)
.model SW2 SW(Ron=1m Roff=1Meg Vt=5)
* Bistable configuration:\n \nIf output is high -> pushing P2 button (i.e. pulling reset PIN to ground) causes the output to go low.\nPressing P2 further does not do anything. It functions when voltage < Vcc/3.\n \nIf output is low -> pushing P1 button (i.e. pulling trigger PIN to ground) causes the output to go high.\nPressing P1 further does not do anything. It functions when voltage < 0.7 V.\n \nNote:\n1. In this simulation output starts high.\n2. There are 2 stable configurations. This circuit could be used to switch between two stages.
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
