* D:\home\brosnan\books\circuits\Circuits-LTSpice\Trigger circuits\555-monostable-mode.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 N005 NC_01 NC_02 N002 N002 power NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
V1 power 0 12
R1 power N002 1k
C1 N002 0 10µ
R2 power N001 10k
Q1 N001 N004 0 0 2N3904
V2 N003 0 PULSE(0 12 10m 1n 1n 1m 1m 1)
R3 N004 N003 10k
R4 N005 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100m
* When pin 2 (trigger) goes low, pin 3 (output) goes high for a time T = 1.1*R1*C1 = 11 ms\n-> Resistor R1 and capacitor C1 determine the duration of the output pulse\n \nNote:\n1. For the circuit to work correctly the duration of V2 should be lower than 1.1*R1*C1
* 555 monostable mode
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
