* D:\home\brosnan\books\circuits\Circuits-LTSpice\Trigger circuits\555-raw-monostable-mode-temporizzatore.asc
* Generated by LTspice 26.0.1 for Windows.
A1 N007 N006 0 0 0 N004 N003 0 SRFLOP
R1 Vcc N005 5k
R2 N005 N009 5k
R3 N009 0 5k
R4 Vcc N008 10k
R5 Vcc N001 10k
C1 N001 0 100n
X§U1 N001 N005 Vcc 0 N006 LT1018 ;§pnba In+)In-)V+)V-)OUT
X§U2 N009 N008 Vcc 0 N007 LT1018 ;§pnba In+)In-)V+)V-)OUT
V1 Vcc 0 5
Q1 N001 N004 0 0 NPN
E1 N002 0 N003 0 5
S1 0 N008 N010 0 SW
V2 N010 0 PULSE(0 5 0.2m 1n 1n 10u 100u 1)
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 2m
* 1 GND
* 2 Trigger
* 6 Threshold
* 8 Vcc
* 3 OUT
* 555 Timer
* 7 Discharge
* 4 Reset
* 5
* 555 Timer - Monostable mode
* RS flip flop truth table\n \nR S Q\n0 0 Keeps previous state (either 0 or 1)\n0 1 1\n1 0 0\n1 1 prohibited
.model SW SW(Ron=1u Roff=1Meg Vt=0.5 Vh=0.1)
* When pin 2 (trigger) goes low, pin 3 (output) goes high for a time T = 1.1*R5*C1 = 1.1 ms\n-> Resistor R5 and capacitor C1 determine the duration of the output pulse
* Library below included based on ModelFile attribute of instance X§U1, X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1018.asy)
.lib LT1018.sub
.backanno
.end
