* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\555-timer.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 N002 power NC_01 N001 Disc power NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
R1 power Disc 10k
R2 Disc N001 10k
C1 N001 0 1µ
V1 power 0 5
.tran 100m
* 555 Timer
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
