* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\A-class-amplifier-bjt.asc
* Generated by LTspice 26.0.1 for Windows.
R2 N001 N005 0.56Meg
V1 N004 0 SINE(0 1m 10k)
V2 N001 0 5
Q1 N002 N005 0 0 2N3904
C1 N005 N004 1µ
R3 N001 N002 1k
C2 N003 N002 1µ
R4 N003 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1m
* Note for sizing: At no load, it must be Vcc/2 on collector
* A class amplifier with BJT
.backanno
.end
