* D:\home\brosnan\books\circuits\Circuits-LTSpice\RF-generators\AM-FM-signals-sources.asc
* Generated by LTspice 26.0.1 for Windows.
V1 modulating_signal 0 SINE(10 10 1)
B1 FM_modulated_output 0 V=sin(V(modulating_signal)*3.14158*2*time)
B2 AM_modulated_output 0 V=V(modulating_signal)*sin(50*3.14158*2*time)
.tran 0 5 0 0.1m
* How to generate AM and FM modulated signal for RF testing
.backanno
.end
