* D:\home\brosnan\books\circuits\Circuits-LTSpice\ASK-modulator-transceiver\ASK-modulation.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 5
V§Carrier N002 0 SINE(0 1 1k)
R1 N003 N002 1k
Q1 N003 N007 0 0 2N3904
Vsignal N006 0 PULSE(5 0 5m 1n 1n 5m 10m 5)
V4 Vee 0 -5
R2 N007 N006 1k
R3 0 N001 20k
C1 0 N001 100n
Rx1 N005 Vcc 10k
Ry1 N005 0 222
Rh1 N004 N005 2.5k
X§U4 N005 N001 Vcc 0 N004 LT1720 ;§pnba In+)In-)V+)V-)OUT
X§U3 N008 N004 Vcc 0 Vreceived LT1720 ;§pnba In+)In-)V+)V-)OUT
R4 N008 Vcc 10k
R5 0 N008 2k
R6 Vreceived 0 1k
X§U5 N003 Vant Vcc Vee Vant level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
D1 Vant N001 1N5818
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
* ASK Modulation
.tran 0 30m 0 1000n
* To antenna: amp stage?
* A
* Carrier wave
* Digital signal to be transmitted
* From Antenna: maybe amplifying stage needed
* Envelope detector
* Hysteresis comparator (shifted from origin)\nVL = 0.1 V\nVh = 0.5 V
* Inverting comparator
* ASK modulation:\n \nVc = Vcarrier at frequency fp\nVs = Vsignal, modulating signal at frequency fm (square wave)\n \nSpectral content of Vant:\nfp - 5 fm, fp - 3fm, fp - fm, fp, fp + fm, fp + 3 fm, fp + 5 fm, etc....\n500Hz, 700Hz, 900Hz, 1kHz, 1.1 kHz, 1.3kHz, 1.5kHz, etc... + fundamental at fm=100Hz
* Library below included based on ModelFile attribute of instance X§U4, X§U3 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1720.asy)
.lib LT1720.sub
* Library below included based on ModelFile attribute of instance X§U5 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
