* D:\home\brosnan\books\circuits\Circuits-LTSpice\ASK-modulator-transceiver\ASK-modulation2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 5
V§Carrier Vcarrier 0 SINE(0 1 1k 0 0 0)
R1 N001 Vcarrier 1k
Q1 N005 N008 0 0 2N3904
Vsignal Vsignal_send 0 PULSE(0 5 5m 1n 1n 5m 10m 3)
V4 Vee 0 -5
R2 N008 N007 1k
R3 0 N002 20k
C1 0 N002 100n
Rx1 N004 Vcc 10k
Ry1 N004 0 222
Rh1 N003 N004 2.5k
X§U4 N004 N002 Vcc 0 N003 LT1720 ;§pnba In+)In-)V+)V-)OUT
X§U3 N006 N003 Vcc 0 Vreceived LT1720 ;§pnba In+)In-)V+)V-)OUT
R4 N006 Vcc 10k
R5 0 N006 2k
R6 Vreceived 0 1k
X§U5 N001 Vant Vcc Vee Vant level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
D1 Vant N002 1N5818
R7 N001 N005 0.5k
Q2 N007 N009 0 0 2N3904
R8 N009 Vsignal_send 1k
R9 N007 Vcc 1k
Q3 N001 N018 0 0 2N3904
R10 0 N010 100k
C2 0 N010 100n
Q4 Vcc N015 N016 0 2N3904
R11 N015 N014 100
R12 N010 N016 100
R13 N018 N017 1k
X§U1 Vsignal_send N010 Vcc Vee N014 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U2 N013 N011 Vcc Vee N017 LT1720 ;§pnba In+)In-)V+)V-)OUT
R14 N011 Vee 6.8k
R15 0 N011 3.2k
X§U6 0 N012 Vcc Vee N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R16 N012 N010 100k
R17 N013 N012 100k
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
* ASK Modulation
.tran 0 40m 0
* To antenna: amp stage?
* A
* Digital signal to be transmitted
* From Antenna: maybe amplifying stage needed
* Envelope detector
* Hysteresis comparator (shifted from origin)\nVL = 0.1 V\nVh = 0.5 V
* Inverting comparator
* ASK modulation:\n \nVc = Vcarrier at frequency fp\nVs = Vsignal, modulating signal at frequency fm (square wave)\n \nSpectral content of Vant:\nfp - 5 fm, fp - 3fm, fp - fm, fp, fp + fm, fp + 3 fm, fp + 5 fm, etc....\n500Hz, 700Hz, 900Hz, 1kHz, 1.1 kHz, 1.3kHz, 1.5kHz, etc... + fundamental at fm=100Hz
* Library below included based on ModelFile attribute of instance X§U4, X§U3, X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1720.asy)
.lib LT1720.sub
* Library below included based on ModelFile attribute of instance X§U5, X§U1, X§U6 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
