* D:\home\brosnan\books\circuits\Circuits-LTSpice\ASK-modulator-transceiver\ASK-modulation3.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 5
V§Carrier Vcarrier 0 SINE(0 1 1k 0 0 0)
R1 N003 Vcarrier 1k
Q1 N006 N009 0 0 2N3904
Vsignal Vsignal_send 0 PULSE(0 5 5m 1n 1n 5m 10m 3)
V4 Vee 0 -5
R2 N009 N008 1k
R3 0 N002 20k
C1 0 N002 100n
Rx1 N005 Vcc 10k
Ry1 N005 0 222
Rh1 N004 N005 2.5k
X§U4 N005 N002 Vcc 0 N004 LT1720 ;§pnba In+)In-)V+)V-)OUT
X§U3 N007 N004 Vcc 0 Vreceived LT1720 ;§pnba In+)In-)V+)V-)OUT
R4 N007 Vcc 10k
R5 0 N007 2k
R6 Vreceived 0 1k
X§U5 N003 Vant Vcc Vee N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
D1 Vant N002 1N5818
R7 N003 N006 0.5k
Q2 N008 N010 0 0 2N3904
R8 N010 Vsignal_send 1k
R9 N008 Vcc 1k
Q3 N003 N012 0 0 2N3904
R13 N012 N011 1k
Q5 Vcc N001 Vant 0 2N3904
Q6 Vant N001 Vee 0 2N3906
V2 N011 0 PULSE(0 5 30m 1n 1n 10s)
X§U2 N002 N013 Vcc 0 N014 LT1720 ;§pnba In+)In-)V+)V-)OUT
R11 N013 Vcc 9.2k
R12 0 N013 0.1k
R14 N014 0 10k
C2 N014 0 10n
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
* ASK Modulation
.tran 0 40m 0
* To antenna: amp stage?
* Digital signal to be transmitted
* From Antenna: maybe amplifying stage needed
* Envelope detector
* Hysteresis comparator (shifted from origin)\nVL = 0.1 V\nVh = 0.5 V
* Inverting comparator
* ASK modulation:\n \nVc = Vcarrier at frequency fp\nVs = Vsignal, modulating signal at frequency fm (square wave)\n \nSpectral content of Vant:\nfp - 5 fm, fp - 3fm, fp - fm, fp, fp + fm, fp + 3 fm, fp + 5 fm, etc....\n500Hz, 700Hz, 900Hz, 1kHz, 1.1 kHz, 1.3kHz, 1.5kHz, etc... + fundamental at fm=100Hz
* Enables (LOW) or Disables (HIGH) the transmission
* Is data being transmitted?\nyes (HIGH)\nno (LOW)
* Library below included based on ModelFile attribute of instance X§U4, X§U3, X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1720.asy)
.lib LT1720.sub
* Library below included based on ModelFile attribute of instance X§U5 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
.backanno
.end
