* D:\home\brosnan\books\circuits\Circuits-LTSpice\Signal processing\Analog-multiplier.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 0 N002 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
V1 vin 0 SINE(0.2 0.2 20 0 0 0 10)
R1 N001 vin 500k
D1 N001 N002 1N4148
X§U3 N005 0 N006 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R4 N005 Vin2 500k
R2 N003 N002 5k
R3 N003 N006 5k
R5 0 N010 1k
X§U2 N003 N010 N004 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R6 N004 N003 5k
X§U4 N007 0 N008 opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R7 N008 N007 500
R8 N009 N008 1k
X§U5 N009 0 out opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
R10 out N009 1k
D2 N005 N006 1N4148
D3 N004 N007 1N4148
V2 Vin2 0 SINE(0.3 0.3 1k 0 0 0)
V3 vref 0 1
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.lib opamp.sub
.tran .2
* Analog multiplier: outputs the product of V1 and V2
* Analog multiplier
.backanno
.end
