* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\BJT-emitter-follower-configuration.asc
* Generated by LTspice 26.0.1 for Windows.
Q1 N002 Vin Vout 0 2N3904
R1 Vout 0 5k
V1 Vin 0 SINE(5 .2 1Meg)
V2 N002 0 5
Q2 N001 N003 N004 0 2N3904
R2 N004 0 5k
V3 N003 0 AC 1
V4 N001 0 5
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
;tran 5us
.ac dec 1000 1 10000Meg
* At the emitter there is the signal sent to the base. Example of negative feedback.\n \nTo understand the functioning it is useful to look at the equivalent circuit with a\ncontrolled current source.
* Emitter-Follower configuration
.backanno
.end
