* D:\home\brosnan\books\circuits\Circuits-LTSpice\Controller-control-systems\Bang-bang-control.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N004 out Vcc 0 N002 LT1018 ;§pnba In+)In-)V+)V-)OUT
V2 Vcc 0 12
Rx1 N004 Vcc 10k
Ry1 N004 0 15k
Rh1 N002 N004 30k
R1 N003 N002 10k
Q1 N001 N003 out 0 2N3904
R2 Vcc N001 1k
C1 out 0 0.01m
R3 out 0 9k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1 startup
* Bang bang controller: feedback loop control
* A
.ic V(out) 0
* Actuator: lets current through.\nThe charge is designed to be much\nfaster than the discharge
* System: in this case we want\nto control the voltage at node\nV(out) to be within the\nhysteresis window
* Bang bang controller and negative feedback:\n1. Compares V(out) with histeresis window limits\n2. Takes appropriate binary action (ON or OFF)\n \nHysteresis window is 2 V. Upper limit is 8 V, lower limit is 6 V.\n \nHow to design:\n1. Select Vcc, VL, Vh.\n2. Set Rx. Rx = user set (arbitrarily)\n3. Find Rh from Rh/Rx = VL/(Vh-VL)\n4. Find Ry from Ry/Rx = VL/(Vcc-Vh)\n \nIn the example:\n1. Vcc = 12V, VL = 6V, Vh=8V.\n2. Rx = 10k.\n3. Rh = 3 Rx\n4. Ry = 1.5 Rx
* System charge is 40us\nSystem discharge is 360us
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1018.asy)
.lib LT1018.sub
.backanno
.end
