* D:\home\brosnan\books\circuits\Circuits-LTSpice\DCDC converters\Boost-converter-1.asc
* Generated by LTspice 26.0.1 for Windows.
Vd N001 0 100
D1 N002 Vo D
L1 N001 N002 10m
C1 Vo 0 10µ
R1 Vo 0 100
S1 0 N002 N003 N004 MOSFET
V2 N003 N004 PULSE(0 100 0 1n 1n {D/Fs} {1/Fs} 1Meg)
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 50m
.model MOSFET SW(Ron=1u Roff=100Meg Vt=90)
* Boost converter
.param Fs = 16k
.param D = 0.5
* Switching frequency: 16 kHz
.backanno
.end
