* D:\home\brosnan\books\circuits\Circuits-LTSpice\DCDC converters\Boost-converter-2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 380
D1 N002 N003 D
L1 N001 N002 10m
C1 N003 0 10µ
R1 N003 0 100
S1 0 N002 N004 N005 MOSFET
V2 N004 N005 PULSE(0 100 0 1n 1n 0.052m 0.0625m 1Meg)
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 50m
.model MOSFET SW(Ron=1u Roff=100Meg Vt=90)
* Switching frequency: 16 kHz
* Boost converter.
.backanno
.end
